US05912246
A mixture of 4-fluorobenzenesulfonamide (6.95 g) and piperazine (17.1 g) in 30 mL of water is heated at 100° C. overnight. The solid is then collected, washed with water and toluene, and dried under reduced pressure to give 9.2 g of 4-(piperazin-1-yl)benzenesulfonamide; mp 219-221° C.; ms m/z 241; IR (mineral oil) 1160, 822, 1332, 608, 1593, 1137 cm-1. 1H NMR (DMSOd6) δ2.81. 3.17 2.3 7.01. 7.07.7.61.

reactant | 4-fluorobenzenesulfonamide | 6.95 g | FC1=CC=C(C=C1)S(=O)(=O)N | C6H6FNO2S
reactant | piperazine | 17.1 g | N1CCNCC1 | C4H10N2
solvent | water | 30 mL | O | H2O
product | 4-(piperazin-1-yl)benzenesulfonamide | 9.2 g | N1(CCNCC1)C1=CC=C(C=C1)S(=O)(=O)N | C10H15N3O2S
